US08912169B2
Step 19: Synthesis of 2-(trans-4-(2,2,12,12-tetramethyl-4,10-dioxo-3,11-dioxa-5,9-diazatridecan-6-yl)cyclohexyl)acetic acid
A mixture of the tert-butyl-1-(4-(2-hydroxyethyl)cyclohexyl)propane-1,3-diyldicarbamate (1.95 mmol), ruthenium (III) chloride hydrate (0.008 g, 0.039 mmol), sodium periodate (1.67 g, 2.8 mmol) in carbon tetrachloride (10 mL), acetonitrile (10 ml) and water (10 mL) was stirred at rt for 2 h. The reaction mixture was cooled to 0° C. and added 0.5N HCl (10 mL), extracted with DCM, dried over Na2SO4. Purification by flash column chromatography (eluent: 40% EtOAc in hexanes) gave the titled acid as white foam (0.67 g, 83%). LC/MC: 437.1 (MNa)+.

reactant | tert-butyl-1-(4-(2-hydroxyethyl)cyclohexyl)propane-1,3-diyldicarbamate | 1.95 mmol | C(C)(C)(C)OC(NC(CCNC([O-])=O)C1CCC(CC1)CCO)=O
reactant | sodium periodate | 2.8 mmol, 1.67 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | HCl | 0.5N, 10 mL | Cl | ClH
reactant | water | 10 mL | O | H2O
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | ruthenium (III) chloride hydrate | 0.039 mmol, 0.008 g | O.[Ru](Cl)(Cl)Cl
product | 2-(trans-4-(2,2,12,12-tetramethyl-4,10-dioxo-3,11-dioxa-5,9-diazatridecan-6-yl)cyclohexyl)acetic acid | 0.67 g, 83% | CC(C)(OC(NC(CCNC(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)CC(=O)O)=O)C | C21H38N2O6
